US07126027B2
4-n-Butyloxy-3,5-dimethoxy-N-[(1-(ethylmethylamino)cyclohexyl)methyl]benzamide
Synthesised from [1-(ethylmethylamino)cyclohexyl]methylamine and 4-butyloxy-3,5-dimethoxybenzoyl chloride V, following procedure described in Example 1 and purified by LCMS to obtain the product as a trifluoroacetate salt. 1H NMR (CDCl3) δ: 0.94 (t, 3H, J=4 Hz), 1.15 (m, 1H), 1.48 (m, 3H), 1.58 (t, 3H, J=4 Hz), 1.65 (m, 3H), 1.73 (m, 3H), 1.81 (m, 3H), 2.09 (d, 2H, J=4 Hz), 2.77 (d, 2H, J=2 Hz), 2.82 (m, 1H), 3.54 (m, 1H), 3.96 (s, 6H), 4.01 (t, 2H, J=4 Hz), 4.06 (m, 1H), 4.20 (dd, 1H, J=3 Hz), 7.57 (s, 2H), 9.05 (m, 1H), 11.62 (s, 1H). LCMS m/z 407.4 (MH+; 98.8%). HRMS (FAB) calc. 407.2898, found 407.2910.

reactant | [1-(ethylmethylamino)cyclohexyl]methylamine | C(C)N(C1(CCCCC1)CN)C | C10H22N2
reactant | 4-butyloxy-3,5-dimethoxybenzoyl chloride | C(CCC)OC1=C(C=C(C(=O)Cl)C=C1OC)OC | C13H17ClO4
product | 4-n-Butyloxy-3,5-dimethoxy-N-[(1-(ethylmethylamino)cyclohexyl)methyl]benzamide | C(CCC)OC1=C(C=C(C(=O)NCC2(CCCCC2)N(C)CC)C=C1OC)OC | C23H38N2O4
